US07678920B2
D) 3-(6-Chloropyridin-3-yl)-2-methylpropan-1-ol
To a stirred solution of 3-(6-chloropyridin-3-yl)-2-methylpropanoic acid (6.5 g, 32.6 mmol) in THF (75 mL) cooled in an ice-water bath was added a solution of 1 M borane in THF (48 mL, 48 mmol) in a rapid dropwise fashion. The mixture was stirred at room temperature for 4 h. Water (25 mL) was added carefully followed by 2 N NaOH solution. The two phases were separated and the aqueous phase washed with ether (100 mL). The organic phases were combined, dried over anhydrous MgSO4, filtered, and concentrated to give 4.2 g of the product as a nearly colorless oil in 69% crude yield. [M+H]+=186, 188; IR: 3414 (OH)

reactant | 3-(6-chloropyridin-3-yl)-2-methylpropanoic acid | 32.6 mmol, 6.5 g | ClC1=CC=C(C=N1)CC(C(=O)O)C | C9H10ClNO2
reactant | borane | 1 M | B | BH3
reactant | Water | 25 mL | O | H2O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 48 mmol, 48 mL | C1CCOC1 | C4H8O
product | 3-(6-Chloropyridin-3-yl)-2-methylpropan-1-ol | 4.2 g | ClC1=CC=C(C=N1)CC(CO)C | C9H12ClNO
